US07375227B2
390A. 8-Benzyl-2-methyl-quinoline-4-carboxylic acid
The compound is prepared from 2-benzylaniline, acetaldehyde and pyruvic acid using the method of Irving, Clifton, J. Chem. Soc. (1959) 288.

reactant | 2-benzylaniline | C(C1=CC=CC=C1)C1=C(N)C=CC=C1 | C13H13N
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | pyruvic acid | C(C(=O)C)(=O)O | C3H4O3
product | 8-Benzyl-2-methyl-quinoline-4-carboxylic acid | C(C1=CC=CC=C1)C=1C=CC=C2C(=CC(=NC12)C)C(=O)O | C18H15NO2
